US05346901
5-[2-Hydroxy-5-(4-methylpiperazinylsulphonyl)phenyl]-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one
A solution of 5-(5-chlorosulphonyl-2-hydroxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one (0.235 g, 0.0006 mol) and N-methylpiperazine (0.5 ml, 0.0045 mol) in ethanol (40 ml) was stirred at room temperature for 18 hours. The solution was evaporated under vacuum and the residue partitioned between ethyl acetate (40 ml) and water (40 ml). The fine precipitate was filtered off, washed with water then ethyl acetate, and crystallised from ethyl acetate/DMF to give the title compound as an off-white powder (0.260 g, 49%), m.p. 283°-284° C. Found: C,53.53; H,5.89; N,18.40. C20H26N6O4S requires C,53.80; H,5.87; N,18.82%.

reactant | 5-(5-chlorosulphonyl-2-hydroxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | 0.0006 mol, 0.235 g | ClS(=O)(=O)C=1C=CC(=C(C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)O | C15H15ClN4O4S
reactant | N-methylpiperazine | 0.0045 mol, 0.5 ml | CN1CCNCC1 | C5H12N2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-[2-Hydroxy-5-(4-methylpiperazinylsulphonyl)phenyl]-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | 0.260 g, 49% | OC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)C)C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C20H26N6O4S
